US06258829B1
(3-Carbonylguanidino-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl)methyl nitrate
In an atmosphere of argon, 28% sodium methoxide methanol solution (1.58 ml, 8.19 mmol) was dissolved in anhydrous methanol (8.0 ml) at room temperature, and the solution was mixed with guanidine hydrochloride (782.4 mg, 8.19 mmol) at 0° C. and stirred at the same temperature for 1 hour. The thus precipitated sodium chloride was removed by filtration using a glass filter and the resulting filtrate was evaporated under reduced pressure to obtain free guanidine. In an atmosphere of argon, (3-carboxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl)methyl nitrate (310.0 mg, 1.17 mmol) were suspended in anhydrous THF (8.0 ml), mixed with CDI (291.2 mg, 1.76 mmol) at room temperature and then stirred at 50° C. for 1 hour. The reaction solution was added dropwise to the previously obtained guanidine THF suspension (5.0 ml), and the mixture was stirred at room temperature for 2.5 hours. The solvent was evaporated under reduced pressure, and the resulting residue was mixed with water and extracted with ethyl acetate. The thus obtained organic layer was washed with saturated sodium bicarbonate aqueous solution, water and saturated brine in that order and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, the resulting residue was purified by a silica gel column chromatography (chloroform:methanol=20:1) and then the thus obtained crystals were washed with ether to obtain the title compound (192.1 mg, 51.1%) as white powder.

reactant | (3-carboxy-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl)methyl nitrate | 1.17 mmol, 310.0 mg | [N+](=O)(OCC1CCCCC=2C1=NC(=C(C2)C(=O)O)C)[O-] | C13H16N2O5
reactant | CDI | 1.76 mmol, 291.2 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | guanidine THF | 5.0 ml | NC(=N)N.C1CCOC1
solvent | THF | 8.0 ml | C1CCOC1 | C4H8O
product | (3-Carbonylguanidino-2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl)methyl nitrate | 192.1 mg, 51.1% | [N+](=O)(OCC1CCCCC=2C1=NC(=C(C2)NC(=N)N=C=O)C)[O-] | C14H17N5O4
